US06331539B1
A catalytic amount of platinum (IV) oxide was added to a solution of 1-(4-aminobutyl)-2-methoxyethyl-1H-imidazo[4,5-c]quinolin-4-amine (7.7 g, 24.5 mmol) in trifluoroacetic acid (250 mL). The reaction mixture was hydrogenated at 50 psi (3.44×105 Pa) on a Parr apparatus. The progress of the reaction was monitored by LC/MS. Additional catalyst was added 7, 11, and 17 days after the start of the reaction. After 25 days the reaction was complete. The reaction mixture was filtered through a layer of Celite® filter aid to remove the catalyst and the filtrate was concentrated under vacuum. The residue was combined with 1 N hydrochloric acid (100 mL) and stirred overnight. The mixture was made basic (pH=11) with ammonium hydroxide and then extracted with dichloromethane (3×300 mL). The extracts were combined and concentrated under vacuum to provide 3.5 g of 1-(4-aminobutyl)-6,7,8,9-tetrahydro-2-methoxyethyl-1H-imidazol[4,5-c]quinolin-4-amine as a solid.

reactant | 1-(4-aminobutyl)-2-methoxyethyl-1H-imidazo[4,5-c]quinolin-4-amine | 24.5 mmol, 7.7 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O
solvent | trifluoroacetic acid | 250 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum (IV) oxide | [Pt](=O)=O
product | 1-(4-aminobutyl)-6,7,8,9-tetrahydro-2-methoxyethyl-1H-imidazol[4,5-c]quinolin-4-amine | 3.5 g | NCCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C17H27N5O
